US04723010
A solution of 2-chloro-1,1,1-triethoxyethane (5.9 g) and 2-aminothiophenol (2.5 g) was heated at 80° C. for 15 minutes. After cooling to room temperature, it was dissovled in methylene chloride (30 ml) and the resulting solution was washed with 3N HCl (10 ml) and then with water (20 ml). The organic portion was evaporated and the residue chromatographed over silica gel to obtain 2-chloromethylbenzothiazole (3.35 g; 90% yield), m.p. 34° C.

reactant | 2-chloro-1,1,1-triethoxyethane | 5.9 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
reactant | 2-aminothiophenol | 2.5 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethylbenzothiazole | 3.35 g, 90% yield | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
